US04460596
11.0 g of N-(2-chlorobenzoyl)-N-[(3-thienylcarbonyl)methyl]amine, 2.17 g of 50% sodium hydride and 7.9 g of ethyl bromoacetate are treated in the same manner as described in Preparation 1-(4). 14 g of ethyl 3-(2-chlorobenzoylamino)-3-(3-thienylcarbonyl)propionate are thereby obtained as an oil. Yield: 97.2%

reactant | N-(2-chlorobenzoyl)-N-[(3-thienylcarbonyl)methyl]amine | 11.0 g | ClC1=C(C(=O)NCC(=O)C2=CSC=C2)C=CC=C1 | C13H10ClNO2S
reactant | sodium hydride | 2.17 g | [H-].[Na+]
reactant | ethyl bromoacetate | 7.9 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 3-(2-chlorobenzoylamino)-3-(3-thienylcarbonyl)propionate | 14 g, Yield: 97.2% | ClC1=C(C(=O)NC(CC(=O)OCC)C(=O)C2=CSC=C2)C=CC=C1 | C17H16ClNO4S
